US07186724B2
1-{2-[4-(6-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-yl]-ethyl}-cyclopropanecarboxylic acid.
1-{2-[4-(6-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-yl]-ethyl}-cyclopropanecarboxylic acid tert-butyl ester, 0.7 g (1.54 mmol), was stirred in 10 mL of trifluoroacetic acid. After 2 hours the reaction mixture was concentrated to an oil. This was taken up in methanolic hydrogen chloride. The salt thus obtained was recrystallized from ethyl acetate/methanol to deliver 0.4 g (60%) of white powder as the desired carboxylic acid mp=255–7° C.

reactant | 1-{2-[4-(6-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-yl]-ethyl}-cyclopropanecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1(CC1)CCN1CCN(CC1)C=1C2=C(SC1)C=C(C=C2)C(F)(F)F | C23H29F3N2O2S
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-{2-[4-(6-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-yl]-ethyl}-cyclopropanecarboxylic acid | FC(C=1C=CC2=C(SC=C2N2CCN(CC2)CCC2(CC2)C(=O)O)C1)(F)F | C19H21F3N2O2S
